*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:30:51 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "MXI4X4"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  MXI4X4 C S1 D B S0 A Y
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET C 3.19747e-16
*|P (C X 0 1.7000 1.0450)
*|I (Mmn6:g Mmn6 g X 0 1.7475 0.4425)
*|I (Mmp6:g Mmp6 g X 0 1.7475 1.3125)
*|S (C:2 1.7200 1.0400)
C1 Mmp6:g VSS 5.57475e-17
C2 Mmn6:g VSS 7.24446e-17
C3 C:2 VSS 6.10282e-17
C4 C VSS 1.30527e-16
Rl1 C:2 Mmn6:g 189.153305 $W=0.039
Rl2 Mmp6:g C:2 50.691776 $W=0.039
Rk3 C:2 C 45.002441 $W=0.48
*
*|NET S1 8.01974e-16
*|P (S1 X 0 4.9000 0.8550)
*|I (Mmn13:g Mmn13 g X 0 3.1575 0.4125)
*|I (Mmn1:g Mmn1 g X 0 5.2325 0.4225)
*|I (Mmp11:g Mmp11 g X 0 2.9975 1.1000)
*|I (Mmp1:g Mmp1 g X 0 5.2325 1.0625)
*|S (S1:2 2.9975 0.8425)
*|S (S1:3 2.8650 0.8350)
*|S (S1:6 5.2325 0.8450)
*|S (S1:7 5.1450 0.8450)
*|S (S1:9 4.9350 0.8550)
C5 Mmp1:g VSS 2.11617e-17
C6 Mmp11:g VSS 2.61166e-17
C7 Mmn1:g VSS 3.63107e-17
C8 Mmn13:g VSS 5.75422e-17
C9 S1:9 VSS 2.39749e-16
C10 S1:6 VSS 1.81264e-17
C11 S1:2 VSS 5.63989e-17
C12 S1:3 VSS 2.90267e-16
C13 S1:7 VSS 3.83432e-17
C14 S1 VSS 1.79584e-17
Rl4 S1:2 S1:3 80.004822 $W=0.039
Rl5 S1:6 S1:7 50.013042 $W=0.114
Rl6 Mmn13:g S1:2 176.900970 $W=0.039
Rl7 S1:6 Mmn1:g 129.648819 $W=0.039
Rl8 S1:2 Mmp11:g 32.373806 $W=0.039
Rl9 Mmp1:g S1:6 37.341133 $W=0.039
Rk10 S1:9 S1 0.025687 $W=0.08
Rk11 S1:7 S1:9 0.149341 $W=0.0985
Rk12 S1:9 S1:3 2.095665 $W=0.08
*
*|NET D 2.49285e-16
*|P (D X 0 2.5000 1.0450)
*|I (Mmn8:g Mmn8 g X 0 2.4375 0.4425)
*|I (Mmp8:g Mmp8 g X 0 2.4375 1.3125)
*|S (D:2 2.4750 1.0400)
C15 Mmp8:g VSS 2.89429e-17
C16 Mmn8:g VSS 5.59132e-17
C17 D:2 VSS 1.64429e-16
Rl13 D:2 Mmn8:g 187.694366 $W=0.039
Rl14 Mmp8:g D:2 49.232826 $W=0.039
Rk15 D D:2 45.006813 $W=0.45
*
*|NET B 2.94081e-16
*|P (B X 0 1.5000 1.0450)
*|I (Mmn4:g Mmn4 g X 0 1.5025 0.4075)
*|I (Mmp4:g Mmp4 g X 0 1.3975 1.3125)
*|S (B:2 1.5300 1.0400)
*|S (B:4 1.5300 1.0400)
C18 Mmp4:g VSS 4.42935e-17
C19 Mmn4:g VSS 7.9855e-17
C20 B:2 VSS 5.8392e-17
C21 B VSS 1.1154e-16
Rl16 Mmn4:g B:2 197.871994 $W=0.039
Rl17 B:2 Mmp4:g 76.900269 $W=0.039
Rk18 B B:4 0.003983 $W=0.48
Rk19 B:2 B:4 45.000000 $W=0.48
*
*|NET S0 9.30093e-16
*|P (S0 X 0 0.3000 0.8550)
*|I (Mmn0:g Mmn0 g X 0 0.3375 0.4075)
*|I (Mmn5:g Mmn5 g X 0 1.3425 0.4075)
*|I (Mmn9:g Mmn9 g X 0 2.1825 0.4425)
*|I (Mmp0:g Mmp0 g X 0 0.3375 1.3175)
*|I (Mmp3:g Mmp3 g X 0 0.8875 1.3175)
*|I (Mmp7:g Mmp7 g X 0 1.8625 1.3125)
*|S (S0:2 0.3100 0.8500)
*|S (S0:5 1.3700 0.5900)
*|S (S0:6 0.8600 0.8800)
*|S (S0:9 1.8900 0.9850)
*|S (S0:11 2.1550 0.6650)
*|S (S0:12 0.3100 0.8500)
*|S (S0:13 1.8900 0.5900)
C22 Mmp7:g VSS 6.15482e-17
C23 Mmp3:g VSS 3.99661e-17
C24 Mmp0:g VSS 4.36351e-17
C25 Mmn9:g VSS 4.59309e-17
C26 Mmn5:g VSS 2.90116e-17
C27 Mmn0:g VSS 4.12918e-17
C28 S0:13 VSS 6.87463e-17
C29 S0:2 VSS 5.29959e-17
C30 S0:6 VSS 1.34856e-16
C31 S0:5 VSS 1.13323e-16
C32 S0:9 VSS 1.04261e-16
C33 S0:11 VSS 8.64937e-17
C34 S0 VSS 1.08034e-16
Rl20 S0:5 S0:6 232.646698 $W=0.039
Rl21 S0:2 Mmn0:g 129.537933 $W=0.039
Rl22 Mmn5:g S0:5 24.795059 $W=0.039
Rl23 Mmn9:g S0:11 89.922546 $W=0.039
Rl24 Mmp0:g S0:2 125.691765 $W=0.039
Rl25 S0:6 Mmp3:g 109.410446 $W=0.039
Rl26 Mmp7:g S0:9 116.845619 $W=0.039
Rk27 S0:12 S0 0.003006 $W=0.08
Rk28 S0:6 S0:12 45.471107 $W=0.1
Rk29 S0:2 S0:12 45.000000 $W=0.1
Rk30 S0:11 S0:13 0.249080 $W=0.09
Rk31 S0:13 S0:9 0.268916 $W=0.09
Rk32 S0:13 S0:5 45.371239 $W=0.09
*
*|NET A 2.55691e-16
*|P (A X 0 0.5000 1.0450)
*|I (Mmn2:g Mmn2 g X 0 0.5425 0.4075)
*|I (Mmp2:g Mmp2 g X 0 0.5425 1.3175)
*|S (A:2 0.5150 0.9850)
*|S (A:4 0.5075 0.9850)
*|S (A:5 0.5150 0.9850)
*|S (A:6 0.5075 1.0450)
C35 Mmp2:g VSS 3.56916e-17
C36 Mmn2:g VSS 8.58798e-17
C37 A:6 VSS 3.32362e-17
C38 A:4 VSS 4.14106e-17
C39 A:2 VSS 5.94731e-17
Rl33 A:2 Mmn2:g 181.460999 $W=0.039
Rl34 Mmp2:g A:2 73.768692 $W=0.039
Rk35 A:2 A:5 45.000000 $W=0.125
Rk36 A:4 A:5 0.001415 $W=0.34
Rk37 A A:6 0.001321 $W=0.34
Rk38 A:4 A:6 0.030104 $W=0.125
*
*|NET Y 3.85591e-16
*|P (Y X 0 4.5000 0.6650)
C40 Y VSS 3.85591e-16
*
*|NET S0b 9.47938e-16
*|I (Mmn0:d Mmn0 d X 0 0.2450 0.4075)
*|I (Mmn3:g Mmn3 g X 0 0.6475 0.4075)
*|I (Mmn7:g Mmn7 g X 0 1.9275 0.4425)
*|I (Mmp0:d Mmp0 d X 0 0.2450 1.3175)
*|I (Mmp5:g Mmp5 g X 0 1.2075 1.3125)
*|I (Mmp9:g Mmp9 g X 0 2.0675 1.3125)
*|S (S0b:2 0.6850 0.2150)
*|S (S0b:4 1.1800 0.9850)
*|S (S0b:7 1.8900 0.2700)
*|S (S0b:8 1.1800 0.3300)
*|S (S0b:9 0.2350 0.5550)
C41 Mmp9:g VSS 6.68372e-17
C42 Mmp5:g VSS 4.26046e-17
C43 Mmp0:d VSS 6.84063e-17
C44 Mmn7:g VSS 8.05277e-17
C45 Mmn3:g VSS 6.57292e-17
C46 Mmn0:d VSS 1.78552e-17
C47 S0b:9 VSS 1.14782e-16
C48 S0b:8 VSS 1.39057e-16
C49 S0b:2 VSS 1.2611e-16
C50 S0b:4 VSS 1.15606e-16
C51 S0b:7 VSS 1.10423e-16
Rl39 Mmn3:g S0b:2 76.925140 $W=0.039
Rl40 Mmn7:g S0b:7 69.232826 $W=0.039
Rl41 Mmp5:g S0b:4 116.845619 $W=0.039
Rl42 Mmp9:g Mmn7:g 283.746704 $W=0.039
Rk43 S0b:7 S0b:8 0.502197 $W=0.06
Rk44 S0b:8 S0b:4 0.454265 $W=0.09
Rk45 S0b:8 S0b:2 0.443456 $W=0.08
Rk46 S0b:2 S0b:9 0.552755 $W=0.08
Rk47 S0b:9 Mmn0:d 75.075310 $W=0.09
Rk48 S0b:9 Mmp0:d 62.647034 $W=0.09
*
*|NET net349 0
*|I (Mmn2:d Mmn2 d X 0 0.5950 0.4075)
*|I (Mmn3:s Mmn3 s X 0 0.5950 0.4075)
Rmw49 Mmn3:s Mmn2:d 0.001000 $W=1
*
*|NET n0 7.40213e-16
*|I (Mmn3:d Mmn3 d X 0 0.9950 0.4075)
*|I (Mmn10:g Mmn10 g X 0 2.7325 0.4125)
*|I (Mmp3:d Mmp3 d X 0 1.1350 1.3125)
*|I (Mmp10:g Mmp10 g X 0 2.7325 1.1000)
*|S (n0:2 2.7050 0.8350)
*|S (n0:5 1.0200 1.3600)
C52 Mmp10:g VSS 4.03626e-17
C53 Mmp3:d VSS 2.37693e-16
C54 Mmn10:g VSS 4.71365e-17
C55 Mmn3:d VSS 1.23769e-16
C56 n0:2 VSS 2.91251e-16
Rl50 n0:2 Mmn10:g 110.307159 $W=0.039
Rl51 Mmp10:g n0:2 29.537928 $W=0.039
Rk52 n0:2 n0:5 46.710255 $W=0.08
Rk53 n0:5 Mmn3:d 75.676498 $W=0.09
Rk54 Mmp3:d n0:5 62.000000 $W=0.08
*
*|NET net361 9.03112e-19
*|I (Mmn5:s Mmn5 s X 0 1.4225 0.4075)
*|I (Mmn4:d Mmn4 d X 0 1.4225 0.4075)
C57 Mmn5:s VSS 9.03112e-19
Rmw55 Mmn4:d Mmn5:s 0.001000 $W=1
*
*|NET net369 0
*|I (Mmn6:d Mmn6 d X 0 1.8375 0.4425)
*|I (Mmn7:s Mmn7 s X 0 1.8375 0.4425)
Rmw56 Mmn7:s Mmn6:d 0.001000 $W=1
*
*|NET n1 6.77284e-16
*|I (Mmn7:d Mmn7 d X 0 2.0550 0.4425)
*|I (Mmn12:g Mmn12 g X 0 3.4675 0.4125)
*|I (Mmp7:d Mmp7 d X 0 1.9650 1.3125)
*|I (Mmp12:g Mmp12 g X 0 3.5725 1.1000)
*|S (n1:2 3.6100 0.6150)
*|S (n1:4 2.3150 0.6200)
C58 Mmp12:g VSS 5.4593e-17
C59 Mmp7:d VSS 9.32786e-17
C60 Mmn12:g VSS 2.67714e-17
C61 Mmn7:d VSS 4.31657e-17
C62 n1:4 VSS 2.39784e-16
C63 n1:2 VSS 2.19691e-16
Rl57 n1:2 Mmn12:g 78.400269 $W=0.039
Rl58 Mmp12:g n1:2 112.694366 $W=0.039
Rk59 n1:2 n1:4 46.401100 $W=0.08
Rk60 n1:4 Mmn7:d 75.306793 $W=0.09
Rk61 n1:4 Mmp7:d 62.703224 $W=0.09
*
*|NET net377 5.06927e-18
*|I (Mmn9:s Mmn9 s X 0 2.3100 0.4425)
*|I (Mmn8:d Mmn8 d X 0 2.3100 0.4425)
C64 Mmn9:s VSS 5.06927e-18
Rmw62 Mmn8:d Mmn9:s 0.001000 $W=1
*
*|NET net329 2.28165e-18
*|I (Mmn10:d Mmn10 d X 0 2.8425 0.4125)
*|I (Mmn11:s Mmn11 s X 0 2.8425 0.4125)
C65 Mmn10:d VSS 2.28165e-18
Rmw63 Mmn11:s Mmn10:d 0.001000 $W=1
*
*|NET n2 9.22066e-16
*|I (Mmn11:d Mmn11 d X 0 3.0550 0.4125)
*|I (Mmn14@1:g Mmn14@1 g X 0 3.8725 0.3850)
*|I (Mmp11:d Mmp11 d X 0 3.1575 1.1000)
*|S (n2:8 3.7900 0.7750)
C66 Mmp11:d VSS 1.92938e-16
C67 Mmn14@1:g VSS 4.84235e-16
C68 Mmn11:d VSS 1.08085e-16
C69 n2:8 VSS 1.36808e-16
Rl64 Mmn14@1:g n2:8 55.987926 $W=0.094
Rk65 Mmn11:d n2:8 75.715530 $W=0.08
Rk66 Mmp11:d Mmn14@1:g 108.207047 $W=0.08
*
*|NET S1b 9.53619e-16
*|I (Mmn11:g Mmn11 g X 0 2.9525 0.4125)
*|I (Mmn1:d Mmn1 d X 0 5.3250 0.4225)
*|I (Mmp13:g Mmp13 g X 0 3.3175 1.1000)
*|I (Mmp1:d Mmp1 d X 0 5.3250 1.0625)
*|S (S1b:2 3.0250 0.7000)
*|S (S1b:4 3.2900 0.8200)
*|S (S1b:6 5.3350 0.6000)
C70 Mmp1:d VSS 2.60694e-17
C71 Mmp13:g VSS 3.10508e-17
C72 Mmn1:d VSS 1.91661e-17
C73 Mmn11:g VSS 3.96978e-17
C74 S1b:6 VSS 3.34426e-16
C75 S1b:2 VSS 1.07586e-16
C76 S1b:4 VSS 3.95623e-16
Rl67 Mmn11:g S1b:2 106.515656 $W=0.039
Rl68 Mmp13:g S1b:4 80.307159 $W=0.039
Rk69 S1b:4 S1b:2 0.280727 $W=0.09
Rk70 S1b:6 S1b:4 2.724295 $W=0.08
Rk71 S1b:6 Mmn1:d 75.124023 $W=0.09
Rk72 Mmp1:d S1b:6 62.293427 $W=0.09
*
*|NET net345 3.53517e-18
*|I (Mmn13:s Mmn13 s X 0 3.3125 0.4125)
*|I (Mmn12:d Mmn12 d X 0 3.3125 0.4125)
C77 Mmn13:s VSS 3.53517e-18
Rmw73 Mmn12:d Mmn13:s 0.001000 $W=1
*
*|NET net296 0
*|I (Mmp2:d Mmp2 d X 0 0.7150 1.3175)
*|I (Mmp3:s Mmp3 s X 0 0.7150 1.3175)
Rmw74 Mmp3:s Mmp2:d 0.001000 $W=1
*
*|NET net304 3.81493e-18
*|I (Mmp5:s Mmp5 s X 0 1.3025 1.3125)
*|I (Mmp4:d Mmp4 d X 0 1.3025 1.3125)
C78 Mmp5:s VSS 3.81493e-18
Rmw75 Mmp4:d Mmp5:s 0.001000 $W=1
*
*|NET net312 1.37987e-18
*|I (Mmp6:d Mmp6 d X 0 1.8050 1.3125)
*|I (Mmp7:s Mmp7 s X 0 1.8050 1.3125)
C79 Mmp6:d VSS 1.37987e-18
Rmw76 Mmp7:s Mmp6:d 0.001000 $W=1
*
*|NET net320 9.18287e-18
*|I (Mmp9:s Mmp9 s X 0 2.2525 1.3125)
*|I (Mmp8:d Mmp8 d X 0 2.2525 1.3125)
C80 Mmp9:s VSS 9.18287e-18
Rmw77 Mmp8:d Mmp9:s 0.001000 $W=1
*
*|NET net280 4.85195e-18
*|I (Mmp10:d Mmp10 d X 0 2.8650 1.1000)
*|I (Mmp11:s Mmp11 s X 0 2.8650 1.1000)
C81 Mmp10:d VSS 4.85195e-18
Rmw78 Mmp11:s Mmp10:d 0.001000 $W=1
*
*|NET net284 7.74883e-18
*|I (Mmp13:s Mmp13 s X 0 3.4450 1.1000)
*|I (Mmp12:d Mmp12 d X 0 3.4450 1.1000)
C82 Mmp13:s VSS 7.74883e-18
Rmw79 Mmp12:d Mmp13:s 0.001000 $W=1
*
*Instance Section
*
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.4e-07 sb=1.82259e-06 sca=8.85152 scb=0.00706865 scc=0.000138481
Mmn2	Mmn2:d	Mmn2:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=3.45e-07 sb=1.7731e-06 sca=8.85152 scb=0.00706865 scc=0.000138481
Mmn3	Mmn3:d	Mmn3:g	Mmn3:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.09425P	AS=0.0087P	PD=1.59U	PS=0.41U
+ fw=1.45e-07 sa=4.5e-07 sb=1.74776e-06 sca=8.85152 scb=0.00706865 scc=0.000138481
Mmn5	Mmn3:d	Mmn5:g	Mmn5:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.09425P	AS=0.01668P	PD=1.59U	PS=0.52U
+ fw=1.45e-07 sa=1.145e-06 sb=1.58e-06 sca=8.85152 scb=0.00706865 scc=0.000138481
Mmn4	Mmn4:d	Mmn4:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01667P	AS=0.05015P	PD=0.52U	PS=1.41U
+ fw=1.45e-07 sa=1.305e-06 sb=1.54138e-06 sca=8.85152 scb=0.00706865 scc=0.000138481
Mmn6	Mmn6:d	Mmn6:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.01957P	AS=0.05015P	PD=0.56U	PS=1.41U
+ fw=1.45e-07 sa=1.2e-06 sb=2e-06 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn7	Mmn7:d	Mmn7:g	Mmn7:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03045P	AS=0.01957P	PD=0.71U	PS=0.56U
+ fw=1.45e-07 sa=1.38e-06 sb=2e-06 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn9	Mmn7:d	Mmn9:g	Mmn9:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03045P	AS=0.03045P	PD=0.71U	PS=0.71U
+ fw=1.45e-07 sa=1.635e-06 sb=1.97103e-06 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn8	Mmn8:d	Mmn8:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.03045P	AS=0.04225P	PD=0.71U	PS=0.91U
+ fw=1.45e-07 sa=1.70793e-06 sb=1.93586e-06 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.03588P	AS=0.04225P	PD=0.76U	PS=0.91U
+ fw=2.05e-07 sa=1.28768e-06 sb=1.92585e-06 sca=9.17255 scb=0.0076374 scc=0.000189126
Mmn11	Mmn11:d	Mmn11:g	Mmn11:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.03588P	PD=0.73U	PS=0.76U
+ fw=2.05e-07 sa=1.38963e-06 sb=1.90439e-06 sca=9.17255 scb=0.0076374 scc=0.000189126
Mmn13	Mmn11:d	Mmn13:g	Mmn13:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.05432P	PD=0.73U	PS=0.94U
+ fw=2.05e-07 sa=1.48463e-06 sb=1.8561e-06 sca=9.17255 scb=0.0076374 scc=0.000189126
Mmn12	Mmn12:d	Mmn12:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05432P	AS=0.0793P	PD=0.94U	PS=1.24U
+ fw=2.05e-07 sa=1.62829e-06 sb=1.69817e-06 sca=9.17255 scb=0.0076374 scc=0.000189126
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.05137P	PD=0.57U	PS=1.07U
+ fw=1.45e-07 sa=2e-06 sb=1.4e-07 sca=9.33388 scb=0.00788941 scc=0.00017958
Mmn14@1	Y	Mmn14@1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.26U
+ AD=0.0678P	AS=0.08077P	PD=1.075U	PS=1.2075U	M=4
+ fw=2.6e-07 sa=1.42269e-06 sb=1.26077e-06 sca=8.51051 scb=0.00656948 scc=0.000151659
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=1.9686e-06 sca=15.5268 scb=0.0147861 scc=0.000216306
Mmp2	Mmp2:d	Mmp2:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0645P	AS=0.0344P	PD=1.03U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.96384e-06 sca=11.9362 scb=0.00875484 scc=7.61791e-05
Mmp3	Mmp3:d	Mmp3:g	Mmp3:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05875P	AS=0.0645P	PD=0.99U	PS=1.03U
+ fw=2.15e-07 sa=6.9e-07 sb=1.74093e-06 sca=10.2921 scb=0.00736325 scc=7.25636e-05
Mmp5	Mmp3:d	Mmp5:g	Mmp5:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05875P	AS=0.03118P	PD=0.99U	PS=0.72U
+ fw=2.15e-07 sa=9.88837e-07 sb=1.53953e-06 sca=10.1453 scb=0.00734814 scc=7.36798e-05
Mmp4	Mmp4:d	Mmp4:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03117P	AS=0.08117P	PD=0.72U	PS=1.3U
+ fw=2.15e-07 sa=1.17884e-06 sb=1.39372e-06 sca=10.1453 scb=0.00734814 scc=7.36798e-05
Mmp6	Mmp6:d	Mmp6:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.01505P	AS=0.08117P	PD=0.57U	PS=1.3U
+ fw=2.15e-07 sa=1.52884e-06 sb=1.12512e-06 sca=10.1453 scb=0.00734814 scc=7.36798e-05
Mmp7	Mmp7:d	Mmp7:g	Mmp7:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.01505P	PD=0.75U	PS=0.57U
+ fw=2.15e-07 sa=1.64384e-06 sb=1.03686e-06 sca=10.1453 scb=0.00734814 scc=7.36798e-05
Mmp9	Mmp7:d	Mmp9:g	Mmp9:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.06988P	PD=0.75U	PS=1.08U
+ fw=2.15e-07 sa=1.84884e-06 sb=8.79535e-07 sca=10.1453 scb=0.00734814 scc=7.36798e-05
Mmp8	Mmp8:d	Mmp8:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.06988P	AS=0.08215P	PD=1.08U	PS=1.71U
+ fw=2.15e-07 sa=1.98442e-06 sb=5.95581e-07 sca=10.1453 scb=0.00734814 scc=7.36798e-05
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0682P	AS=0.08215P	PD=1.06U	PS=1.71U
+ fw=3.1e-07 sa=4.00403e-07 sb=2e-06 sca=22.2698 scb=0.0192893 scc=0.0023049
Mmp11	Mmp11:d	Mmp11:g	Mmp11:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.08525P	AS=0.0682P	PD=1.17U	PS=1.06U
+ fw=3.1e-07 sa=6.26935e-07 sb=1.9625e-06 sca=22.2698 scb=0.0192893 scc=0.0023049
Mmp13	Mmp11:d	Mmp13:g	Mmp13:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.08525P	AS=0.0651P	PD=1.17U	PS=1.04U
+ fw=3.1e-07 sa=8.97097e-07 sb=1.86444e-06 sca=22.2698 scb=0.0192893 scc=0.0023049
Mmp12	Mmp12:d	Mmp12:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0651P	AS=0.1892P	PD=1.04U	PS=2.29U
+ fw=3.1e-07 sa=1.11097e-06 sb=1.64758e-06 sca=22.2698 scb=0.0192893 scc=0.0023049
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0301P	AS=0.13438P	PD=0.71U	PS=1.83U
+ fw=2.15e-07 sa=2e-06 sb=1.4e-07 sca=29.3395 scb=0.0284356 scc=0.00289177
Mmp14@1	Y	Mmn14@1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.39U
+ AD=0.0624P	AS=0.14389P	PD=1.1U	PS=1.975U	M=4
+ fw=3.9e-07 sa=1.24128e-06 sb=1.10615e-06 sca=28.7024 scb=0.0198217 scc=0.00315848
.ENDS
.END
