*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:29:54 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "MXI2XL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  MXI2XL A S0 Y B
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET A 2.34101e-16
*|P (A X 0 0.1000 0.8550)
*|I (Mmn1:g Mmn1 g X 0 0.2525 0.5225)
*|I (Mmp1:g Mmp1 g X 0 0.2525 1.3125)
*|S (A:2 0.2525 0.9000)
*|S (A:3 0.1500 0.9000)
C1 Mmp1:g VSS 3.36596e-17
C2 Mmn1:g VSS 5.90863e-17
C3 A:2 VSS 3.69648e-17
C4 A:3 VSS 7.82516e-17
C5 A VSS 2.61385e-17
Rl1 A:2 A:3 51.986729 $W=0.114
Rl2 A:2 Mmn1:g 112.341133 $W=0.039
Rl3 Mmp1:g A:2 112.341133 $W=0.039
Rk4 A:3 A 0.022563 $W=0.125
*
*|NET S0 5.00021e-16
*|P (S0 X 0 1.1000 1.0450)
*|I (Mmn4:g Mmn4 g X 0 0.7525 0.5225)
*|I (Mmn0:g Mmn0 g X 0 1.0625 0.5225)
*|I (Mmp2:g Mmp2 g X 0 0.4725 1.3125)
*|I (Mmp0:g Mmp0 g X 0 1.0625 1.3125)
*|S (S0:2 0.7150 0.8500)
*|S (S0:5 1.0900 0.8600)
*|S (S0:7 1.0900 0.8600)
C6 Mmp0:g VSS 4.44406e-17
C7 Mmp2:g VSS 6.7556e-17
C8 Mmn0:g VSS 3.66845e-17
C9 Mmn4:g VSS 5.20656e-17
C10 S0:2 VSS 1.4621e-16
C11 S0:5 VSS 1.07559e-16
C12 S0 VSS 4.55049e-17
Rl5 Mmn4:g S0:2 83.848213 $W=0.039
Rl6 S0:5 Mmn0:g 89.153305 $W=0.039
Rl7 S0:2 Mmp2:g 192.847122 $W=0.039
Rl8 Mmp0:g S0:5 119.922546 $W=0.039
Rk9 S0 S0:7 0.110947 $W=0.1
Rk10 S0:5 S0:7 45.000000 $W=0.1
Rk11 S0:7 S0:2 45.226891 $W=0.1
*
*|NET Y 2.28957e-16
*|P (Y X 0 0.3000 0.6650)
*|I (Mmn2:d Mmn2 d X 0 0.5550 0.5225)
*|I (Mmp2:d Mmp2 d X 0 0.5750 1.3125)
C13 Mmp2:d VSS 8.48395e-17
C14 Mmn2:d VSS 4.17746e-17
C15 Y VSS 1.02343e-16
Rk12 Mmn2:d Y 75.203682 $W=0.08
Rk13 Y Mmp2:d 62.572704 $W=0.09
*
*|NET B 2.82044e-16
*|P (B X 0 0.9000 1.0450)
*|I (Mmn3:g Mmn3 g X 0 0.8575 0.5225)
*|I (Mmp3:g Mmp3 g X 0 0.8575 1.3125)
*|S (B:2 0.8950 1.0400)
*|S (B:4 0.8950 1.0400)
C16 Mmp3:g VSS 4.26405e-17
C17 Mmn3:g VSS 7.64975e-17
C18 B:2 VSS 6.5033e-17
C19 B VSS 9.78732e-17
Rl14 B:2 Mmn3:g 156.925140 $W=0.039
Rl15 Mmp3:g B:2 49.232826 $W=0.039
Rk16 B:4 B 0.001659 $W=0.19
Rk17 B:2 B:4 45.000000 $W=0.19
*
*|NET n3 9.13171e-18
*|I (Mmn1:d Mmn1 d X 0 0.3050 0.5225)
*|I (Mmn2:s Mmn2 s X 0 0.3050 0.5225)
C20 Mmn1:d VSS 9.13171e-18
Rmw18 Mmn2:s Mmn1:d 0.001000 $W=1
*
*|NET S0b 6.00411e-16
*|I (Mmn2:g Mmn2 g X 0 0.3575 0.5225)
*|I (Mmn0:d Mmn0 d X 0 1.1550 0.5225)
*|I (Mmp4:g Mmp4 g X 0 0.6775 1.3125)
*|I (Mmp0:d Mmp0 d X 0 1.2075 1.3125)
*|S (S0b:2 0.3850 0.2400)
*|S (S0b:4 0.6400 1.0400)
*|S (S0b:6 1.1650 0.6700)
*|S (S0b:7 0.6500 0.6700)
C21 Mmp0:d VSS 5.64993e-17
C22 Mmp4:g VSS 5.14915e-17
C23 Mmn0:d VSS 1.57558e-17
C24 Mmn2:g VSS 6.10542e-17
C25 S0b:7 VSS 9.82256e-17
C26 S0b:6 VSS 9.14183e-17
C27 S0b:2 VSS 1.11225e-16
C28 S0b:4 VSS 1.14741e-16
Rl19 Mmn2:g S0b:2 112.999466 $W=0.039
Rl20 Mmp4:g S0b:4 94.232826 $W=0.039
Rk21 S0b:7 S0b:4 0.422459 $W=0.08
Rk22 S0b:7 S0b:2 0.431382 $W=0.09
Rk23 S0b:6 S0b:7 0.409522 $W=0.08
Rk24 S0b:6 Mmn0:d 75.074791 $W=0.09
Rk25 Mmp0:d S0b:6 62.499401 $W=0.09
*
*|NET n5 0
*|I (Mmn4:s Mmn4 s X 0 0.8050 0.5225)
*|I (Mmn3:d Mmn3 d X 0 0.8050 0.5225)
Rmw26 Mmn3:d Mmn4:s 0.001000 $W=1
*
*|NET n4 1.13449e-17
*|I (Mmp1:d Mmp1 d X 0 0.3625 1.3125)
*|I (Mmp2:s Mmp2 s X 0 0.3625 1.3125)
C29 Mmp1:d VSS 1.13449e-17
Rmw27 Mmp2:s Mmp1:d 0.001000 $W=1
*
*|NET n6 0
*|I (Mmp4:s Mmp4 s X 0 0.7675 1.3125)
*|I (Mmp3:d Mmp3 d X 0 0.7675 1.3125)
Rmw28 Mmp3:d Mmp4:s 0.001000 $W=1
*
*Instance Section
*
Mmn1	Mmn1:d	Mmn1:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0414P	PD=0.41U	PS=1.37U
+ fw=1.45e-07 sa=1e-07 sb=9.5e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn2	Mmn2:d	Mmn2:g	Mmn2:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.05075P	AS=0.0087P	PD=0.99U	PS=0.41U
+ fw=1.45e-07 sa=2.05e-07 sb=8.45e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn4	Mmn2:d	Mmn4:g	Mmn4:s	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.05075P	AS=0.0087P	PD=0.99U	PS=0.41U
+ fw=1.45e-07 sa=6e-07 sb=4.5e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn3	Mmn3:d	Mmn3:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=7.05e-07 sb=3.45e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmn0	Mmn0:d	Mmn0:g	VSS	VSS	g45n1hvt	L=0.045U
+ W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=9.1e-07 sb=1.4e-07 sca=14.7993 scb=0.0157101 scc=0.000964917
Mmp1	Mmp1:d	Mmp1:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.03762P	AS=0.0301P	PD=0.78U	PS=0.71U
+ fw=2.15e-07 sa=1.4e-07 sb=1.055e-06 sca=19.4817 scb=0.0210827 scc=0.000690865
Mmp2	Mmp2:d	Mmp2:g	Mmp2:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.03762P	PD=0.75U	PS=0.78U
+ fw=2.15e-07 sa=3.6e-07 sb=8.35e-07 sca=12.7904 scb=0.00993072 scc=8.66491e-05
Mmp4	Mmp2:d	Mmp4:g	Mmp4:s	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.0344P	AS=0.02902P	PD=0.75U	PS=0.7U
+ fw=2.15e-07 sa=5.65e-07 sb=6.3e-07 sca=11.7062 scb=0.00805323 scc=7.41039e-05
Mmp3	Mmp3:d	Mmp3:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.02902P	AS=0.0344P	PD=0.7U	PS=0.75U
+ fw=2.15e-07 sa=7.45e-07 sb=4.5e-07 sca=12.1787 scb=0.00883398 scc=7.73084e-05
Mmp0	Mmp0:d	Mmp0:g	VDD	VDD	g45p1hvt	L=0.045U
+ W=0.215U
+ AD=0.05268P	AS=0.0344P	PD=0.92U	PS=0.75U
+ fw=2.15e-07 sa=9.5e-07 sb=2.45e-07 sca=15.5376 scb=0.0148069 scc=0.000217426
.ENDS
.END
